US05599811
1,1-Dioxo-6-propyloxy-1,2-dihydro-1λ6 -benzo[d]isothiazol-3-one
A solution of 2-tert-butyl-1,1-dioxo-6-propyloxy-1,2-dihydro-1λ6 -benzo[d]isothiazol-3-one (0.346 g, 1.165 mmol) in trifluoroacetic acid (10 mL) was refluxed for 48 hours. NMR of the reaction mixture revealed quantitative deprotection. The mixture was concentrated in vacuo and crystallized from methylene chloride, methanol and hexane, to afford the required product (0.130 g, 46%);

reactant | 2-tert-butyl-1,1-dioxo-6-propyloxy-1,2-dihydro-1λ6 -benzo[d]isothiazol-3-one | 1.165 mmol, 0.346 g | C(C)(C)(C)N1S(C2=C(C1=O)C=CC(=C2)OCCC)(=O)=O | C14H19NO4S
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1,1-Dioxo-6-propyloxy-1,2-dihydro-1λ6 -benzo[d]isothiazol-3-one | 0.130 g, 46% | O=S1(NC(C2=C1C=C(C=C2)OCCC)=O)=O | C10H11NO4S
